US06894047B2
To an ice-cold solution of 2-chloro-4-(3,5-dimethyl-piperazin-1-yl)-6-(1-methoxy-ethyl)-[1,3,5]triazine, prepared in Example 2 above, (2.2 mmol, 631 mg) in methylene chloride (7 mL) was added boron tribromide (1 M in methylene chloride, 11.04 mmol, 11 mL) and the reaction was stirred for 2 h. After the reaction was allowed to come to room temperature, methylene chloride (10 mL) was added to it followed by a small quantity of water (1 mL) to quench the unreacted boron tribromide. Sufficient saturated aq. sodium bicarbonate was added to raise the pH of the reaction solution to 8. The methylene chloride layer was collected, dried, filtered and the filtrate was evaporated to dryness to obtain a residue, which was purified by silica gel chromatography (eluent, 98:2 methylene chloride-methanol) to obtain 1-[4-chloro-6-(3,5-dimethyl-piperazin-1-yl)-[1,3,5]triazin-2-yl]-ethanol (65%, 392 mg); mp 126-128° C.

reactant | 2-chloro-4-(3,5-dimethyl-piperazin-1-yl)-6-(1-methoxy-ethyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)N1CC(NC(C1)C)C)C(C)OC | C12H20ClN5O
reactant | boron tribromide | 11.04 mmol, 1 M, 11 mL | B(Br)(Br)Br | BBr3
reactant | water | 1 mL | O | H2O
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-chloro-6-(3,5-dimethyl-piperazin-1-yl)-[1,3,5]triazin-2-yl]-ethanol | 392 mg, 65% | ClC1=NC(=NC(=N1)N1CC(NC(C1)C)C)C(C)O | C11H18ClN5O
